US05763359
1. Preparation of 1-Ethyl-5-methyl-3-(trifluoromethyl)pyrazole
A solution of 25.0 g (grams) (167 mmol) (millimoles) of ethylhydrazine oxalate in 50 mL (milliliters) of ethanol was added to a solution of 25.0 g (162 mmol) of 1,1,1-trifluoro-2,4-pentanedione in 200 mL of ethanol at ambient temperature with stirring. The mixture was heated to reflux with stirring for 18 hours and was then allowed to cool. The volatile components were removed by evaporation under reduced pressure and the residue obtained was taken up in 150 mL, of dichloromethane. The resulting solution was washed twice with 100 mL portions of water, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 19.1 g (66 percent of theory) of the title compound as an amber oil

reactant | ethylhydrazine oxalate | 167 mmol, 25.0 g | C(C(=O)O)(=O)O.C(C)NN
reactant | 1,1,1-trifluoro-2,4-pentanedione | 162 mmol, 25.0 g | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-Ethyl-5-methyl-3-(trifluoromethyl)pyrazole | C(C)N1N=C(C=C1C)C(F)(F)F | C7H9F3N2
